US09302991B2
<Step-3>:1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethane-1,2-diol (single enantiomer)
A 200 mL flask is charged with tert-butanol (30 mL), water (30 mL) and AD-mix-beta (10 g, 4.92 mmol). Stirring room temperature producted two clear phased. The lower aquerous phase bright yellow. The mixture is cooled to 0° C. Whereupon some of the dissolved salts precipitate. 2-(2,2,2-trifluoroethoxy)-5-vinylpyridine (1.00 g, 4.92 mmol, Step-2) is added at once, and the heterogeneous slurry is stirred vigorously at 0° C. for 15 hours. White precipitate is filtrated and filtrate is removed under reduced pressure. The residue is extracted with ethyl acetate and dried over sodium sulfate and concentrated in vacuo. The residue is purified by column chromatography on silica gel eluting with n-hexane/ethyl acetate (1:3) to give 1.01 g (86% yield) of the title compound as colorless oil.

reactant | tert-butanol | 30 mL | C(C)(C)(C)O | C4H10O
reactant | AD-mix-beta | 4.92 mmol, 10 g | CC[C@H]1CN2CC[C@H]1C[C@@H]2[C@H](C3=C4C=C(C=CC4=NC=C3)OC)OC5=NN=C(C6=CC=CC=C65)O[C@H]([C@H]7C[C@@H]8CCN7C[C@@H]8CC)C9=C1C=C(C=CC1=NC=C9)OC | C48H54N6O4
reactant | 2-(2,2,2-trifluoroethoxy)-5-vinylpyridine | 4.92 mmol, 1.00 g | FC(COC1=NC=C(C=C1)C=C)(F)F | C9H8F3NO
solvent | water | 30 mL | O | H2O
product | 1-(6-(2,2,2-trifluoroethoxy)pyridin-3-yl)ethane-1,2-diol | 1.01 g, 86% yield | FC(COC1=CC=C(C=N1)C(CO)O)(F)F | C9H10F3NO3
